US08445480B2
Step A. Methyl 5-cyano-2-hydroxy-3-nitrobenzoate
To 25 ml of fuming nitric acid was added 2.50 g of methyl 5-cyano-2-hydroxybenzoate. This solution quickly turned dark orange, and the reaction was complete after stirring for 1 h. The solution was slowly transferred to 100 ml of ice-cold water. To the resultant suspension was added 100 ml of ethyl acetate and the biphasic mixture was shaken and separated. The aqueous layer was extracted with ethyl acetate (2×60 ml), and the combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in ethyl acetate (100 ml) and filtered through a small plug of silica gel, eluting with more ethyl acetate (50 ml). The eluent was concentrated in vacuo to provide the title compound (2.71 g, 87%). Mass spectrum (ESI) 221.2 (M−1).

reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | methyl 5-cyano-2-hydroxybenzoate | 2.50 g | C(#N)C=1C=CC(=C(C(=O)OC)C1)O | C9H7NO3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 5-cyano-2-hydroxy-3-nitrobenzoate | 2.71 g, 87% | C(#N)C=1C=C(C(=C(C(=O)OC)C1)O)[N+](=O)[O-] | C9H6N2O5
